US08754089B2
To a suspension of 3-bromo-2-(hydroxymethyl)-4H-pyrido[1,2-a]pyrimidin-4-one (1 equiv) and NaHCO3 (6 equiv) in DCM was added Dess-Martin periodinane (1.5 equiv) at rt with stirring. The reaction mixture was stirred at rt for 3 h, monitered by MS and TLC. The mixture was diluted with DCM and filtered off through Celite™, and the filtrate was cond under vacuum. The crude was purified by silica gel column chromatography using 80% EtOAc in hexane as eluent to give the 3-bromo-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde as a yellowish solid: 1HNMR (400 MHz, DMSO-d6): δ10.12 (s,1H), 9.00-9.01 (dd,1H), 8.03-8.12 (m,1H), 7.89-7.91 (dd,1H), 7.50-7.54 (m,1H).

reactant | 3-bromo-2-(hydroxymethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 1 equiv | BrC1=C(N=C2N(C1=O)C=CC=C2)CO | C9H7BrN2O2
reactant | NaHCO3 | 6 equiv | C(=O)(O)[O-].[Na+]
reactant | Dess-Martin periodinane | 1.5 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carbaldehyde | BrC1=C(N=C2N(C1=O)C=CC=C2)C=O | C9H5BrN2O2
